US05459272
(2-Furoyl)acetone:
4.27 ml (5.04 g, 40 mmol) methyl 2-furoate was added to a suspension of NaH (made from 3.83 g commercial NaH slurry by removal of the mineral oil with pentane) in 30 ml anhydrous diethyl ether. To this was added, so as to maintain the temperature below 30° C., 5.87 ml (4.64 g, 80 mmol) acetone (dried over CaCl2). This mixture was heated under reflux for 2 h, cooled, and divided between diethyl ether and 3M HCl. The ether layer was washed with brine, dried (MgSO4), and concentrated to yield 6.06 g of a red oil (raw yield 99%) which was purified by vacuum distillation (b.p. 85°-90° C./1 torr).

reactant | methyl 2-furoate | 40 mmol, 4.27 ml, 5.04 g | O1C(=CC=C1)C(=O)OC | C6H6O3
reactant | NaH | [H-].[Na+]
reactant | acetone | 80 mmol, 5.87 ml, 4.64 g | CC(=O)C | C3H6O
reactant | HCl | 3M | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2-Furoyl)acetone | 6.06 g, yield 99% | O1C(=CC=C1)C(=O)CC(C)=O | C8H8O3
